US04897406
A mixture of 1.33 g (0.01 mol) of rhodanine, 1.80 g (0.01 mol) of 4-chlorobenzalacetone, 20 ml of ethanol and 2 ml of aqueous ammonia was heated under reflux for 4 hours. After cooling, the precipitated crystals were recovered by filtration and washed with methanol to give 0.52 g of the desired 5-(α-methyl-4-chlorocinnamylidene)-4-oxo-2-thioxothiazolidine.

reactant | rhodanine | 0.01 mol, 1.33 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | 4-chlorobenzalacetone | 0.01 mol, 1.80 g | ClC1=CC=C(C=CC(C)=O)C=C1 | C10H9ClO
reactant | ammonia | 2 ml | N | H3N
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(α-methyl-4-chlorocinnamylidene)-4-oxo-2-thioxothiazolidine | 0.52 g | CC(C=C1C(NC(S1)=S)=O)=CC1=CC=C(C=C1)Cl | C13H10ClNOS2
